US05164408
28.6 g of sodium methylate and 0.2 g of potassium iodide are added to a solution of 84.7 g of 1-chloro-1(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane in 500 ml of methanol. After the reaction mixture has been refluxed for one hour, 300 ml of water are added to the solution, which is extracted several times by shaking with methyl tert-butyl ether. The organic phase separated off is washed twice with water, then dried over sodium sulfate and evaporated down, 67 g (89%) of 1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethene being obtained in the form of an oil.

reactant | sodium methylate | 28.6 g | C[O-].[Na+]
reactant | 1-chloro-1(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane | 84.7 g | ClC(C(C1=CC=C(C=C1)F)C1=C(C=CC=C1)F)N1N=CN=C1 | C16H12ClF2N3
reactant | water | 300 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
catalyst | potassium iodide | 0.2 g | [I-].[K+]
product | 1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethene | 67 g, 89% | N1(N=CN=C1)C=C(C1=CC=C(C=C1)F)C1=C(C=CC=C1)F | C16H11F2N3
